US06544985B2
(RS)-[5-(Ethyl-methyl-amino)-4-methyl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(ethyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester (Example J25) (279 mg, 1.0 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester (Example K5) (402 mg, 1.0 mmol) according to the general procedure M. Obtained as a yellow foam (400 mg, 66%).

reactant | [2-amino-5-(ethyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 279 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC)C)N)=O | C15H25N3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester | 1.0 mmol, 402 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[5-(Ethyl-methyl-amino)-4-methyl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC)C)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C32H42N6O6
